US03932487
3.2 g. of 2-(6-carbethoxyhexyl)-2-cyclopentenone, dissolved in 20 ml. of dry ethanol, is added to a solution of sodium heptanethiolate (producible by dissolving 0.24 g. of sodium in 30 ml. of dry ethanol and adding 1.3 g. of heptylthiol); the reaction mixture is agitated under nitrogen for 24 hours at 40°, then diluted with 150 ml. of ice water and 10 ml. of concentrated HCl, extracted with CH2Cl2, washed with saturated aqueous NaCl solution, dried over Na2SO4, and the solvent is distilled off. After purifying the residue by chromatography, 2-(6-carbethoxyhexyl)-3-heptylthio-cyclopentanone is obtained. Rf = 0.7 (silica gel/chloroform).

reactant | 2-(6-carbethoxyhexyl)-2-cyclopentenone | C(=O)(OCC)CCCCCCC=1C(CCC1)=O | C14H22O3
reactant | sodium heptanethiolate | 30 ml, 0.24 g | C(CCCCCC)[S-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-(6-carbethoxyhexyl)-3-heptylthio-cyclopentanone | C(=O)(OCC)CCCCCCC1C(CCC1SCCCCCCC)=O | C21H38O3S
